US07781478B2
To a solution of 1-[4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-3-isopropyl-urea (750 mg, 1.93 mmol) in 10 mL of acetonitrile is added anhydrous K2CO3 (800 mg, 5.79 mmol) and 1-bromo-3-chloropropane (382 μL, 3.86 mmol). After stirring overnight at 80° C., the reaction mixture is cooled and solvent is removed. The reaction is re-suspended in 100 mL of ethyl acetate. The organic phase is washed with 200 mL of H2O, and the aqueous phase is re-extracted 2× with 100 mL of ethyl acetate. The organic phases are combined, dried over MgSO4 and the solvent is removed to afford 769 mg (86%) of 1-{4-[6-(3-chloropropoxy)-3-cyano-1-cyclobutyl-1H-indol-2-yl]-phenyl}-3-isopropyl-urea as a tan powder.

reactant | 1-[4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-3-isopropyl-urea | 1.93 mmol, 750 mg | C(#N)C1=C(N(C2=CC(=CC=C12)O)C1CCC1)C1=CC=C(C=C1)NC(=O)NC(C)C | C23H24N4O2
reactant | K2CO3 | 5.79 mmol, 800 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3-chloropropane | 3.86 mmol, 382 μL | BrCCCCl | C3H6BrCl
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-{4-[6-(3-chloropropoxy)-3-cyano-1-cyclobutyl-1H-indol-2-yl]-phenyl}-3-isopropyl-urea | 769 mg, 86% | ClCCCOC1=CC=C2C(=C(N(C2=C1)C1CCC1)C1=CC=C(C=C1)NC(=O)NC(C)C)C#N | C26H29ClN4O2
